US07670591B2
5-(6-Methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyrimidin-2-amine
6-Methoxy-1,3-benzoxazole (0.67 mmol), 5-bromo-N,N-dimethylpyrimidin-2-amine (0.80 mmol), CuBr (0.13 mmol), Cs2CO3 (0.67 mmol) and Pd(t-Bu3P)2 (0.067 mmol) in dry DMF (3 ml) was stirred 30 min at 160° C. in a microwave reactor. The reaction mixture was filtered through celite, washed through with CH2Cl2 and the solvents were removed under reduced pressure. The crude product was purified by flash chromatography (CH2Cl2/CH2Cl2/MeOH (9:1) gradient) to give the title compound as an off white solid (108.2 mg). 1H NMR δ ppm 8.99 (s, 2H) 7.62 (d, 1H) 7.38 (d, 1H) 6.98 (dd, 1H) 3.83 (s, 3H) 3.23 (s, 6H); MS m/z 271 (M+H).

reactant | 6-Methoxy-1,3-benzoxazole | 0.67 mmol | COC1=CC2=C(N=CO2)C=C1 | C8H7NO2
reactant | 5-bromo-N,N-dimethylpyrimidin-2-amine | 0.80 mmol | BrC=1C=NC(=NC1)N(C)C | C6H8BrN3
reactant | Cs2CO3 | 0.67 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Pd(t-Bu3P)2 | 0.067 mmol | CC(C)(C)P(C(C)(C)C)C(C)(C)C.CC(C)(C)P(C(C)(C)C)C(C)(C)C.[Pd]
product | 5-(6-Methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyrimidin-2-amine | COC1=CC2=C(N=C(O2)C=2C=NC(=NC2)N(C)C)C=C1 | C14H14N4O2
